US04107423
Daunomycin (I; R1 =R2 =R; R3 =OCH3).
Operating in accordance with the procedure of Example 2, but employing α-N-trifluoroacetyl-daunomycin (prepared as in Example 7), daunomycin hydrochloride m.p. 188°-189° C.; [α]D20 = +240° (c = 0.1 CH3OH) was obtained.

reactant | daunomycin hydrochloride | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC3=C(C4=C(C(=C23)O)C(=O)C5=C(C4=O)C=CC=C5OC)O)(C(=O)C)O)N)O.Cl
solvent | CH3OH | CO | CH4O
product | Daunomycin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC3=C(C4=C(C(=C23)O)C(=O)C5=C(C4=O)C=CC=C5OC)O)(C(=O)C)O)N)O | C27H29NO10
